US08048904B2
Reaction temperature at which deprotection of trityl Olmesartan medoxomil takes place is preferable at about 0° C. to 60° C. more preferably at 10° C. to 30° C. In another preferred embodiment the combination of trityl Olmesartan medoxomil, water-immiscible organic solvent and acid is maintained for about 1 to 6 hours and more preferably 2 to 4 hours. Triphenyl carbinol formed dissolves in solvent toluene and the deprotected Olmesartan medoxomil is in aqueous solution. Both the layers are separated. Aqueous layer is washed with toluene and the pH of the aqueous layer is adjusted to about 5 to 6 using a base. Suitable bases include but are not limited to, alkali and alkaline earth metal hydroxides, carbonates, and hydrogen carbonate salts. Specific exemplary bases include, but are not limited to, sodium hydroxide, potassium hydroxide, calcium hydroxide, magnesium hydroxide, sodium carbonate, potassium carbonate, sodium bicarbonate, potassium bicarbonate, and calcium carbonate. Potassium carbonate and sodium bicarbonate are preferred. After contacting the solution with the base, the solution is extracted with ethyl acetate twice. Combined ethyl acetate layers are washed with 5% sodium chloride solution. Olmesartan medoxomil is obtained by distillation of the solvent.

reactant | trityl Olmesartan medoxomil | CCCC1=NC(=C(N1CC2=CC=C(C=C2)C3=CC=CC=C3C4=NN=NN4C(C5=CC=CC=C5)(C6=CC=CC=C6)C7=CC=CC=C7)C(=O)OCC8=C(OC(=O)O8)C)C(C)(C)O | C48H44N6O6
reactant | water | O | H2O
product | Triphenyl carbinol | C1(=CC=CC=C1)C(O)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H16O
